US09212187B2
N-[3-({N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]amino}methyl)pyridin-2-ylmethyl]formamide
3-({N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]amino}methyl)pyridine-2-carbonitrile(0.40 g) and Raney nickel(1.2 g) were suspended in formic acid(8 ml), and the mixture was stirred at 60° C. for 3 hours. The reaction mixture was filtered to remove insoluble matter, and the filtrate was condensed under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate: methanol=75:25→80:20). The purified product was condensed under reduced pressure. Acetone and ether were added to the residue. The precipitated insoluble matter was separated, washed with ether, and dried to give the title compound(33 mg) as a pale brown white amorphous.

reactant | 3-({N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]amino}methyl)pyridine-2-carbonitrile | 0.40 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN(CCN2C(C1=C(C=C2)OC(=C1)C)=O)CC=1C(=NC=CC1)C#N | C32H34N6O4
reactant | Acetone | CC(=O)C | C3H6O
catalyst | Raney nickel | 1.2 g | [Ni] | Ni
solvent | formic acid | 8 ml | C(=O)O | CH2O2
product | N-[3-({N-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-ylmethyl)-N-[2-(2-methyl-4-oxo-4H-furo[3,2-c]pyridin-5-yl)ethyl]amino}methyl)pyridin-2-ylmethyl]formamide | 33 mg | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CN(CCN2C(C1=C(C=C2)OC(=C1)C)=O)CC=1C(=NC=CC1)CNC=O | C33H38N6O5
